US06127550
Preparation of 1-p-toluenesulfonyl-2(R)-ethylaziridine
R-(-)-2-amino-1-butanol (99.96 g, 105 mL) and tert-butyl methyl ether (TBME) (277 g, 366 mL) are combined under a nitrogen atmosphere. This mixture is stirred for several minutes and 10 N aqueous sodium hydroxide (449 mL) is added over a period of about 10 minutes. The reaction mixture is cooled to below 10° C. and a solution of p-toluene sulfonyl chloride (TsCl) (464 g) in TBME (711 g) is added over a period of about 50 minutes, maintaining the temperature of the reaction mixture at or below 32° C. After the addition is complete, the mixture is stirred for about 30 minutes at 40° C., and water (900 mL) is added while cooling the mixture to 25° C. The layers are separated and the organic layer washed sequentially with water (150 g) and 25% aqueous sodium chloride solution (300 g). Toluene (450 g) is added to the organic layer, and the mixture distilled under reduced pressure, maintaining the temperature of the mixture at or below 45° C., until the water content of the mixture is below about 0.1%. The resulting solution is used, without further treatment, for the preparation described in Example 2.

reactant | R-(-)-2-amino-1-butanol | 105 mL, 99.96 g | CCC(CO)N | C4H11NO
reactant | sodium hydroxide | 10 N, 449 mL | [OH-].[Na+]
reactant | p-toluene sulfonyl chloride | 464 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | 900 mL | O | H2O
solvent | TBME | 711 g | COC(C)(C)C | C5H12O
solvent | tert-butyl methyl ether | 366 mL, 277 g | COC(C)(C)C | C5H12O
product | 1-p-toluenesulfonyl-2(R)-ethylaziridine | C1(=CC=C(C=C1)S(=O)(=O)N1[C@@H](C1)CC)C | C11H15NO2S
